US03954754
EXAMPLE 45: 6-Benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
The 3-ethylmercapto-6-benzoyl-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine, required as starting material, may be obtained in a manner analogous to that described in Example 41 (b), from 34.8 g of 6-benzoyl-3-mercapto-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine and 16.8 g of ethyl bromide. Reaction time 19 hours. Working up as described in Example 41 (b), eluant: benzene. M.P. 132°-135° (decomp., from isopropanol/ether).

reactant | 3-ethylmercapto-6-benzoyl-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C)SC1=CC2=C(N=N1)CCN(C2)C(C2=CC=CC=C2)=O | C16H17N3OS
reactant | 6-benzoyl-3-mercapto-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 34.8 g | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)S)CC1 | C14H13N3OS
reactant | ethyl bromide | 16.8 g | C(C)Br | C2H5Br
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | isopropanol ether | C(C)(C)O.CCOCC
product | 6-Benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C14H15N5O
